US07807693B2
(c) 6-amino-1,2-dimethyl-1,2,3,4-tetrahydro-isoquinoline hydrobromide
A mixture of 110 mg (0.47 mmol) methyl (1,2-dimethyl-1,2,3,4-tetrahydro-isoquinolin-6-yl)-carbamate, 2.0 MI 33% HBr in glacial acetic acid and 2.0 ml glacial acetic acid are heated to boiling for 1.5 h. Then the mixture is concentrated in vacuo, mixed with water and the aqueous phase is separated off and freeze-dried.

reactant | methyl (1,2-dimethyl-1,2,3,4-tetrahydro-isoquinolin-6-yl)-carbamate | 0.47 mmol, 110 mg | CC1N(CCC2=CC(=CC=C12)NC(OC)=O)C | C13H18N2O2
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | 6-amino-1,2-dimethyl-1,2,3,4-tetrahydro-isoquinoline hydrobromide | Br.NC=1C=C2CCN(C(C2=CC1)C)C | InChI=1S/C11H16N2.BrH/c1-8-11-4-3-10(12)7-9(11)5-6-13(8)2;/h3-4,7-8H,5-6,12H2,1-2H3;1H
